US04714702
4.2 g of N-(2-amino-5-nitrobenzoyl)-2-methyl-4-bromoaniline, 1.42 g of pyridine and 1.74 g of fluoroacetyl chloride are treated in the same manner as described in Example 1-(1), whereby 4.73 g of N-(2-fluoroacetamido-5-nitrobenzoyl)-2-methyl-4-bromoaniline are obtained as colorless needles.

reactant | N-(2-amino-5-nitrobenzoyl)-2-methyl-4-bromoaniline | 4.2 g | NC1=C(C(=O)NC2=C(C=C(C=C2)Br)C)C=C(C=C1)[N+](=O)[O-] | C14H12BrN3O3
reactant | fluoroacetyl chloride | 1.74 g | FCC(=O)Cl | C2H2ClFO
solvent | pyridine | 1.42 g | N1=CC=CC=C1 | C5H5N
product | N-(2-fluoroacetamido-5-nitrobenzoyl)-2-methyl-4-bromoaniline | 4.73 g | FCC(=O)NC1=C(C(=O)NC2=C(C=C(C=C2)Br)C)C=C(C=C1)[N+](=O)[O-] | C16H13BrFN3O4
